US06653471B2
To a solution of 2-fluoroaniline (103 mg, 0.926 mmol) in CH2Cl2 (2.0 mL) at 0° C. under N2 is slowly added AlMe3 (0.46 mL, 2.0 M in toluene). The resulting solution is stirred at room temperature for 1 h. Next, 2-methyl-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester (60 mg, 0.231 mmol) is added in one portion. The resulting mixture is then stirred at reflux for 2 h. After cooling, the reaction mixture is carefully diluted with saturated aq NH4Cl (˜5 mL) and some H2O. The mixture is stirred vigorously for 30 min. and then extracted three times with CH2Cl2(containing some (˜5%) MeOH). The combined extracts are dried over K2CO3 and concentrated. The crude material is purified by flash chromatography on silica gel. Elution with 40:1 CHCl3-MeOH followed by 30:1 CHCl3-MeOH and finally 20:1 CHCl3-MeOH afforded, after concentration of the fractions containing pure product, a residue, which is then granulated with Et2O. The suspension is filtered, and the solid washed with Et2O and dried, affording 45 mg (60%) of 2-methyl-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid (2-fluoro-phenyl)-amide as an off-white solid. Electrospray mass spectrum: m/z 325 [M+1].

reactant | 2-fluoroaniline | 0.926 mmol, 103 mg | FC1=C(N)C=CC=C1 | C6H6FN
reactant | AlMe3 | 2.0 M, 0.46 mL | C[Al](C)C
reactant | 2-methyl-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester | 0.231 mmol, 60 mg | C(C)OC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)C | C14H17N3O2
reactant | H2O | O | H2O
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | ˜5 mL | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
product | 2-methyl-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid (2-fluoro-phenyl)-amide | 45 mg, 60% | FC1=C(C=CC=C1)NC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)C | C18H17FN4O
